US05955464
A mixture of 5-(1-imidazolyl)-2-nitrobenzonitrile (2.14 g), hydrazine hydrate (2 ml), ethanol (25 ml) and DMA (10 ml) was stirred and heated to 40° C. Raney nickel (0.6 g) was added in portions whilst maintaining the temperature at 40-50° C. The mixture was stirred at 40-50° C. for 2 hours. The Raney nickel was filtered off, the mixture was evaporated and the residue was triturated with ethyl acetate (10 ml) to give 2-amino-5-(1-imidazolyl)benzamide (2.03 g); NMR Spectrum: (CD3SOCD3) 6.70 (s, 2H), 6.79 (d, 1H), 7.03 (s, 1H), 7.2 (s, 1H), 7.37 (s, 1H), 7.55 (s, 1H), 7.71 (d, 1H), 7.73 (s, 1H), 8.02 (s, 1H);

reactant | 5-(1-imidazolyl)-2-nitrobenzonitrile | 2.14 g | N1(C=NC=C1)C=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C10H6N4O2
reactant | hydrazine hydrate | 2 ml | O.NN
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.6 g | [Ni] | Ni
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-amino-5-(1-imidazolyl)benzamide | 2.03 g | NC1=C(C(=O)N)C=C(C=C1)N1C=NC=C1 | C10H10N4O
